US04467082
4-Hydroxybenzophenone (100 parts) was dissolved in tetrahydrofuran (100 parts). Potassium hydroxide (30.9 parts) was added, heated and stirred until completely dissolved. Allyl chloride (46.4 parts) and potassium iodide (42 parts) were added to this solution. The mixture was refluxed for 8 hours. After cooling, it was washed with water and the solvent removed by distillation. A crude product of the desired 4-allyloxybenzophenone was obtained. It was recrystallized in n-hexane to obtain 110 parts of 4-allyloxybenzophenone (melting point 71° C.) at 72% yield.

reactant | 4-Hydroxybenzophenone | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | Potassium hydroxide | [OH-].[K+]
reactant | Allyl chloride | C(C=C)Cl | C3H5Cl
reactant | potassium iodide | [I-].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-allyloxybenzophenone | C(C=C)OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C16H14O2
